US04000154
A mixture containing 10.0 g (0.0312 mole) of methyl cis-3-azido-1-(2,4-dimethoxybenzyl)-4-oxoazetidine-2-carboxylate, 1.0 g of 10% palladium on carbon and 200 ml of ethanol was hydrogenated at 60 psi of hydrogen at 40°-45° for 2 hours. The reaction mixture was allowed to cool to 25° and was filtered through celite. After removing the solvents in vacuo there remained a clear, yellow gum. The crude amine was taken up in 100 ml of anhydrous methylene dichloride and was cooled to 0° in an ice bath. To this solution was added 4.32 ml (0.0312 mole) of triethylamine followed by the slow addition of a solution of 5.32 g (0.0312 mole) of phenoxyacetyl chloride in 40 ml of methylene dichloride. The mixture was stirred at 0° for 1 hour then extracted successively with water, aqueous hydrochloric acid, aqueous sodium bicarbonate and brine and was dried over anhydrous magnesium sulfate. Filtration followed by removal of the solvent in vacuo afforded a yellow solid. This material was partially dissolved in ether, cooled to -25° and filtered to give methyl cis-1-(2,4-dimethoxybenzyl)-4-oxo-3-phenoxyacetylaminoazetidine-2-carboxylate as a white solid; tlc: benzene:ethyl acetate (1:1), silica gel, Rf = 0.38; mp 115.5°-116.0° (ethyl acetate-hexane).

reactant | methyl cis-3-azido-1-(2,4-dimethoxybenzyl)-4-oxoazetidine-2-carboxylate | 0.0312 mole, 10.0 g | N(=[N+]=[N-])[C@@H]1[C@@H](N(C1=O)CC1=C(C=C(C=C1)OC)OC)C(=O)OC | C14H16N4O5
reactant | hydrogen | [H][H] | H2
reactant | triethylamine | 0.0312 mole, 4.32 ml | C(C)N(CC)CC | C6H15N
reactant | phenoxyacetyl chloride | 0.0312 mole, 5.32 g | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | methylene dichloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | methyl cis-1-(2,4-dimethoxybenzyl)-4-oxo-3-phenoxyacetylaminoazetidine-2-carboxylate | COC1=C(CN2[C@H]([C@H](C2=O)NC(COC2=CC=CC=C2)=O)C(=O)OC)C=CC(=C1)OC | C22H24N2O7
